US07776882B2
Step I: 5-(2-amino-5-phenoxy-phenyl)-4cyano-pentanoic acid cyclohexyl-methyl-amide
4-cyano-5-(2-nitro-5-phenoxy-phenyl)-pentanoic acid cyclohexyl-methyl-amide (0.200 g, 0.46 mmol), ammonium chloride (0.31 g, 5.75 mmol) and methanol (3.0 mL) were added to a round bottom flask followed by addition of powdered zinc (0.4 g). The vessel was equipped with a condenser and the reaction was headed to reflux for 2 h followed by filtration through a pad of Celite®. The solvent was removed and the resulting residue was dissolved in ethyl acetate, then washed 3 times with 10% sodium carbonate solution. The organic layer was dried with sodium sulfate, filtered and the solvent was removed under reduced pressure. The resulting residue was used in subsequent steps without further purification.

reactant | 4-cyano-5-(2-nitro-5-phenoxy-phenyl)-pentanoic acid cyclohexyl-methyl-amide | 0.46 mmol, 0.200 g | C1(CCCCC1)N(C(CCC(CC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-])C#N)=O)C | C25H29N3O4
reactant | ammonium chloride | 5.75 mmol, 0.31 g | [Cl-].[NH4+]
catalyst | zinc | 0.4 g | [Zn] | Zn
solvent | methanol | 3.0 mL | CO | CH4O
product | 5-(2-amino-5-phenoxy-phenyl)-4cyano-pentanoic acid cyclohexyl-methyl-amide | C1(CCCCC1)N(C(CCC(CC1=C(C=CC(=C1)OC1=CC=CC=C1)N)C#N)=O)C | C25H31N3O2
